US07442713B2
Ethyl 3-[5-(2-acetylaminopyridin-4-yl)-4-(4-fluorophenyl)-1-methyl-1H-imidazol-2-ylsulfanyl]propionate
K2CO3 (3.1 mmol/0.34 g) is added to undissolved N-{4-[5-(4-fluorophenyl)-3-methyl-2-thioxo-2H-imidazol-4-yl]pyridin-2-yl}acetamide (2.23 mmol/0.8 g), and the mixture is then suspended in 100 ml of absolute acetone. Ethyl 3-bromopropionate (2.3 mmol/0.422 g) are then added, and the mixture is stirred at room temperature for 24 h. The mixture is then heated under reflux for 3 h, the precipitate is filtered off and the filtrate is concentrated under reduced pressure using a rotary evaporator. The oily residue is separated on a column (mobile phase: CH2Cl2/EtOH, 9.5:0.5).

reactant | K2CO3 | 3.1 mmol, 0.34 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-{4-[5-(4-fluorophenyl)-3-methyl-2-thioxo-2H-imidazol-4-yl]pyridin-2-yl}acetamide | 2.23 mmol, 0.8 g | FC1=CC=C(C=C1)C1=C(N(C(N1)=S)C)C1=CC(=NC=C1)NC(C)=O | C17H15FN4OS
reactant | Ethyl 3-bromopropionate | 2.3 mmol, 0.422 g | BrCCC(=O)OCC | C5H9BrO2
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | Ethyl 3-[5-(2-acetylaminopyridin-4-yl)-4-(4-fluorophenyl)-1-methyl-1H-imidazol-2-ylsulfanyl]propionate | C(C)(=O)NC1=NC=CC(=C1)C1=C(N=C(N1C)SCCC(=O)OCC)C1=CC=C(C=C1)F | C22H23FN4O3S
